US07011838B2
Using 0.21 g of 2-chloro-4-nitrobenzyl chloride, 3 ml of N,N-di-methylformamide, 0.05 g of sodium hydride (60% in oil), and 0.17 g of (3,3,3-trifluoropropyl)malononitrile, and according to the process described in the Production Example 26, there was obtained 0.15 g of 2-(2-chloro-4-nitrobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (38)).

reactant | 2-chloro-4-nitrobenzyl chloride | 0.21 g | ClC1=C(CCl)C=CC(=C1)[N+](=O)[O-] | C7H5Cl2NO2
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.17 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
solvent | N,N-di-methylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(2-chloro-4-nitrobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.15 g, Yield: 46% | ClC1=C(CC(C#N)(C#N)CCC(F)(F)F)C=CC(=C1)[N+](=O)[O-] | C13H9ClF3N3O2
